US07217730B2
(8-Methyl-5-methylcarbamoyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic Acid
To a solution of (8-methyl-5-methylcarbamoyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester (87 mg, 0.234 mmol) in THF/MeOH (1.5 mL/1.5 mL) was added 1 N NaOH (0.468 mL, 0.468 mmol). The reaction mixture was stirred at ambient temperature overnight. The most of THF/MeOH was removed under reduced pressure and the resulting mixture was acidified with 1 N HCl. The mixture was extracted with EtOAc (3×10 mL). The combined organic phase was washed with brine (20 mL), dried over Na2SO4 and concentrated. The residue was purified by preparative HPLC to give 67 mg (84%) of title compound as a white solid. Mp=89–91° C.; HRMS (ESI) [M+H]+ calculated for C19H25N2O4 345.1809, found 345.1807; 1H NMR (DMSO-d6): 300 MHz δ 10.63 (s, 1H), 8.00 (s, 1H), 6.97 (d, J=6.00 Hz, 1H), 6.84 (d, J=6.00 Hz, 1H), 3.89 (m, 1H), 3.81 (m, 1H), 2.93–2.46 (m, 10H), 2.01 (m, 2H), 1.29 (m, 1H), 0.82 (m, 1H), 0.78 (t, J=5.10 Hz, 3H). LCMS retention time: 1.936 minutes.

reactant | (8-methyl-5-methylcarbamoyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | 0.234 mmol, 87 mg | C(C)OC(CC1(OCCC2=C1NC1=C(C=CC(=C21)C(NC)=O)C)CCC)=O | C21H28N2O4
reactant | NaOH | 0.468 mmol, 1 N, 0.468 mL | [OH-].[Na+]
solvent | THF MeOH | 1.5 mL | C1CCOC1.CO
product | (8-Methyl-5-methylcarbamoyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic Acid | 67 mg, 84% | CC=1C=CC(=C2C3=C(NC12)C(OCC3)(CCC)CC(=O)O)C(NC)=O | C19H24N2O4
